US09120822B2
Preparation of 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid [trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-amide
The titled compound is prepared as an off-white solid following Scheme 5 and in analogy to Example 27 using trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexylamine and 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid as starting materials.

reactant | trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexylamine | COC=1N=C2C=3NC(COC3C=NC2=CC1)[C@@H]1CC[C@H](CC1)N | C17H22N4O2
reactant | 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid | O=C1COC2=C(N1)C=C(C=C2)C(=O)O | C9H7NO4
product | 3-oxo-3,4-dihydro-2H-benzo[1,4]oxazine-6-carboxylic acid [trans-4-(6-methoxy-3,4-dihydro-2H-1-oxa-4,5,9-triaza-phenanthren-3-yl)-cyclohexyl]-amide | COC=1N=C2C=3NC(COC3C=NC2=CC1)[C@@H]1CC[C@H](CC1)NC(=O)C=1C=CC2=C(NC(CO2)=O)C1 | C26H27N5O5
